US05127989
Subsequently, as shown in FIG. 3C, the substrate 1 coated with photoresist 102 is put in heat-treatment furnace 105. In the furnace 105, the substrate 1 is heated in an ammonia gas atmosphere 106. The heat treatment is performed at a temperature of 95° to 120° C. for 75 minutes. At the photo-sensitized region, the indene carboxylic acid is crosslinked and alkali-insoluble indene is produced.

reactant | ammonia | N | H3N
reactant | indene carboxylic acid | C1(C=CC2=CC=CC=C12)C(=O)O | C10H8O2
product | indene | C1C=CC2=CC=CC=C12 | C9H8
